US05703072
The iminochloride of 8-chloro-10,11-dihydrodibenz[b,f]-1,4-thiazepine-11-one (0.580 g, 2.07 mmol), prepared in a like manner to the iminochloride of 8-chloro-10,11-dihydrodibenz[b,f]-1,4-oxazepine-11-one described in example 2(a), was dissolved in anhydrous acetonitrile (20 mL) under argon and (6S,8S)-8-t-butoxy-1,4-diazabicyclo[4.3.0]nonane (0.970 g, 4.89 mmol) was added as a solution in anhydrous acetonitrile (5 mL) via syringe and the resulting solution was heated to reflux for 5 hours. After cooling to room temperature, the solvent was evaporated under reduced pressure and the residue partitioned between water and methylene chloride. The organic layer was washed with brine, dried (MgSO4) and evaporated to dryness. The product was purified on silica gel using 10% acetone in hexanes as the eluent to give 0.34 g (37%) of 8-chloro-11-[(6S,8S)-8-t-butoxy-1,4-diazabicyclo[4.3.0]non-4-yl]-dibenz[b,f]-1,4-thiazepine as an off-white solid; mp 132°-134° C.; Rf (10% acetone/hexanes): 0.10; HRMS (FAB): MH+ of C24H28 N3OSCl, calculated 442.1720, found 442.1728.

reactant | iminochloride | N(Cl)Cl | Cl2HN
reactant | 8-chloro-10,11-dihydrodibenz[b,f]-1,4-thiazepine-11-one | 2.07 mmol, 0.580 g | ClC1=CC2=C(SC3=C(C(N2)=O)C=CC=C3)C=C1 | C13H8ClNOS
reactant | 8-chloro-10,11-dihydrodibenz[b,f]-1,4-oxazepine-11-one | ClC1=CC2=C(OC3=C(C(N2)=O)C=CC=C3)C=C1 | C13H8ClNO2
reactant | (6S,8S)-8-t-butoxy-1,4-diazabicyclo[4.3.0]nonane | 4.89 mmol, 0.970 g | C(C)(C)(C)O[C@H]1C[C@H]2CNCCN2C1 | C11H22N2O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 8-chloro-11-[(6S,8S)-8-t-butoxy-1,4-diazabicyclo[4.3.0]non-4-yl]-dibenz[b,f]-1,4-thiazepine | 0.34 g, 37% | ClC1=CC2=C(SC3=C(C(=N2)N2CCN4C[C@H](C[C@H]4C2)OC(C)(C)C)C=CC=C3)C=C1 | C24H28ClN3OS
